US04424205
To a chilled solution of 16.88 g of the mixture containing octyl 3,4-diacetoxyphenylacetamide and 100 ml of methanol was added 16 ml of 5 N NaOH. The reaction mixture was stirred for two hours at room temperature. The methanol was removed on a rotary evaporator, the residue dissolved in 100 ml of 0.1 N NaOH and the solution extracted with 100 ml of ether. The resulting aqueous phase was acidified with conc. HCl and thrice extracted with 150 ml of ether. The combined ether extracts were washed with 100 ml H2O, dried (Na2SO4), filtered and evaporated to yield 8.91 g of crude product. This material was chromatographed on silica gel with 60% ethyl acetate/hexane and subsequently recrystallized from ether-pentane to yield 2.3 g of white crystalline octyl 3,4-dihydroxyphenylacetamide, mp. 83°-85° C. Anal. Calc'd for C16H25NO3 : C, 68.78; H, 9.02; N, 5.01. Found: C, 68.69; H, 9.08; N, 4.98.

reactant | octyl 3,4-diacetoxyphenylacetamide | C(CCCCCCC)C(C(=O)N)C1=CC(=C(C=C1)OC(C)=O)OC(C)=O | C20H29NO5
reactant | NaOH | 5 N, 16 ml | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | octyl 3,4-dihydroxyphenylacetamide | 2.3 g | C(CCCCCCC)C(C(=O)N)C1=CC(=C(C=C1)O)O | C16H25NO3
